US04786310
Ethyl 2-[6-fluoro-3-(2-propenyl)-2(3H)-benzothiazolon-5-ylaminothiocarbonyl]hexahydropyridazine-1-carboxylate (2.61 g) was added to a methanolic solution (2.97 g) of 10% sodium methoxide, and the resultant mixture was heated under reflux for 1.5 hours and allowed to cool. Water was added thereto, and the mixture was extracted with ethyl acetate. The extract was washed with water, dried, concentrated and purified by silica gel thin layer chromatography with a mixture of ethyl acetate and toluene (1:9) as an eluent to give 2-[3-(2-propenyl)-6-fluoro-2(3H)-benzothiazolon-5-yl]-hexahydro-3-thioxo-1H-[1,2,4]triazolo[1,2-a]pyridazin-1-one (0.31 g). m.p., 179°-181° C.

reactant | Ethyl 2-[6-fluoro-3-(2-propenyl)-2(3H)-benzothiazolon-5-ylaminothiocarbonyl]hexahydropyridazine-1-carboxylate | 2.61 g | FC1=CC2=C(N(C(S2)=O)CC=C)C=C1NC(=S)N1N(CCCC1)C(=O)OCC | C18H21FN4O3S2
reactant | sodium methoxide | 2.97 g | C[O-].[Na+]
solvent | Water | O | H2O
product | 2-[3-(2-propenyl)-6-fluoro-2(3H)-benzothiazolon-5-yl]-hexahydro-3-thioxo-1H-[1,2,4]triazolo[1,2-a]pyridazin-1-one | 0.31 g | C(C=C)N1C(SC2=C1C=C(C(=C2)F)N2C(N1N(CCCC1)C2=O)=S)=O | C16H15FN4O2S2
